US03971791
Boiling a solution of 13.4 g of (1-naphthylidene)acetoacetic acid ethyl ester and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 8 hours yields 2-amino-6-methyl-4-(1-naphthyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 174°C (ethanol). Yield: 62% of theory.

reactant | (1-naphthylidene)acetoacetic acid ethyl ester | 13.4 g | C(C)OC(CC(=O)C=C1CC=CC2=CC=CC=C12)=O | C16H16O3
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(1-naphthyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 62% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC2=CC=CC=C12)C(=O)OCC)C)N | C22H24N2O4
